US07842688B2
f) Ethyl 4-(2-methoxycarbonylvinyl)-3-nitrobenzoic acid
The solution of 3.20 g of ethyl 4-(2-chloro-2-methoxycarbonylethyl)-3-nitrobenzoate in 130 ml of tetrahydrofuran is admixed with 6.46 ml of triethylamine and stirred at reflux over 18 hours. The reaction mixture is cooled, poured onto water (300 ml) and extracted with tert-butyl methyl ether (2×300 ml). The organic phases are washed successively with water (2×300 ml) and brine (150 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The crude title compound is obtained as a slightly yellowish solid from the residue. Rf=0.30 (1:2 EtOAc-heptane). Rt=4.50.

reactant | ethyl 4-(2-chloro-2-methoxycarbonylethyl)-3-nitrobenzoate | 3.20 g | ClC(CC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])C(=O)OC | C13H14ClNO6
reactant | triethylamine | 6.46 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | Ethyl 4-(2-methoxycarbonylvinyl)-3-nitrobenzoic acid | C(C)C1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])C=CC(=O)OC | C13H13NO6
